US08865623B2
To a mixture of 2-(5-bromo-2-ethylphenyl)cyclohexane-1,3-dione (0.917 g, 3.11 mmol), sodium iodide (0.934 g, 6.23 mmol) and hexamethyldisilazane (0.454 g, 3.11 mmol) is added copper (I) iodide (0.030 g, 0.15 mmol) and trans-N,N-dimethyl-1,2-cyclohexane diamine (0.044 g, 0.31 mmol). Degassed dioxane (5 ml) is added and the mixture is purged with nitrogen then heated at 180° C. for 1 hour under microwave irradiation. After cooling to room temperature the reaction mixture is treated with 2M aqueous hydrochloric acid and extracted with dichloromethane. The phases are separated and the aqueous phase is further extracted with dichloromethane. Organic fractions are combined then evaporated under reduced pressure to yield a crude product which is purified by flash column chromatography (10% ethyl acetate/hexane to 70% ethyl acetate/hexane eluant) to afford 2-(2-ethyl-5-iodophenyl)cyclohexane-1,3-dione as a white foam.

reactant | 2-(5-bromo-2-ethylphenyl)cyclohexane-1,3-dione | 3.11 mmol, 0.917 g | BrC=1C=CC(=C(C1)C1C(CCCC1=O)=O)CC | C14H15BrO2
reactant | sodium iodide | 6.23 mmol, 0.934 g | [I-].[Na+]
reactant | hexamethyldisilazane | 3.11 mmol, 0.454 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trans-N,N-dimethyl-1,2-cyclohexane diamine | 0.31 mmol, 0.044 g | CN([C@H]1[C@@H](CCCC1)N)C | C8H18N2
catalyst | copper (I) iodide | 0.15 mmol, 0.030 g | [Cu]I
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-(2-ethyl-5-iodophenyl)cyclohexane-1,3-dione | C(C)C1=C(C=C(C=C1)I)C1C(CCCC1=O)=O | C14H15IO2
